US07799814B2
Step II: 2-ethyl-5-oxo-5,6,7,8-tetrahydroimidazo[1,5-c]pyrimidin-2-ium bromide
A suspension of 7,8-dihydroimidazo[1,5-c]pyrimidin-5(6H)-one, obtained in step I as describe above (500 mg; 3.65 mmol; 1 eq), and bromoethane (816 μl; 10.94 mmol; 3 eq) in DMF (7 ml) is divided in two equals fractions and heated under microwave irradiation at 180° C. for 20 min. The reaction mixtures are combined and acetonitrile (15 ml) is added. The resulting precipitate is filtered, washed with acetonitrile and dried under vacuum, affording the title compound that is used in the next step without further purification (118.3 mg; 13%).

reactant | 7,8-dihydroimidazo[1,5-c]pyrimidin-5(6H)-one | C=1N=CN2C(NCCC21)=O | C6H7N3O
reactant | bromoethane | 10.94 mmol, 816 μl, 3 eq | BrCC | C2H5Br
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-ethyl-5-oxo-5,6,7,8-tetrahydroimidazo[1,5-c]pyrimidin-2-ium bromide | [Br-].C(C)[N+]1=CN2C(NCCC2=C1)=O | InChI=1S/C8H11N3O.BrH/c1-2-10-5-7-3-4-9-8(12)11(7)6-10;/h5-6H,2-4H2,1H3;1H
